### PR TITLE
[Merged by Bors] - feat(Analysis/NormedSpace/Multilinear.Basic): operator norm on `ContinuousMultilinearMap` for seminormed spaces

### PR DESCRIPTION
**Pull request by smorel394**
Slightly generalize the definition of the operator norm on `ContinuousMultilinearMap` so that it works when the spaces have seminorms (and not just norms). 
There are two new lemmas `MultilinearMap.zero_of_continuous_of_one_entry_norm_zero` and `MultilinearMap.bound_of_shell_of_continuous` that do the work of the old lemma `MultilinearMap.bound_of_shell`; I kept that last lemma (with the same hypotheses as before) in case it is useful somewhere else. Also, `ContinuousMultilinearMap` only gets a `SeminormedAddCommGroup` instance in general, which is upgraded to a `NormedAddCommGroup` instance if the target space is normed. Other lemmas and their proofs are unchanged, they are just rearranged to separate the ones that work for general seminormed spaces and the ones that only work for normed spaces.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean [hunk 1]
```diff
@@ -462,27 +500,27 @@ theorem le_of_op_nnnorm_le {C : ℝ≥0} (h : ‖f‖₊ ≤ C) : ‖f m‖₊ 
...
-    ‖f.prod g‖₊ = max ‖f‖₊ ‖g‖₊ :=
+theorem op_nnnorm_prod (f : ContinuousMultilinearMap 𝕜 E G)
+    (g : ContinuousMultilinearMap 𝕜 E G') : ‖f.prod g‖₊ = max ‖f‖₊ ‖g‖₊ :=
   eq_of_forall_ge_iff fun _ ↦ by
     simp only [op_nnnorm_le_iff, prod_apply, Prod.nnnorm_def', max_le_iff, forall_and]
 
-theorem op_norm_prod (f : ContinuousMultilinearMap 𝕜 E G) (g : ContinuousMultilinearMap 𝕜 E G') :
-    ‖f.prod g‖ = max ‖f‖ ‖g‖ :=
+theorem op_norm_prod (f : ContinuousMultilinearMap 𝕜 E G)
+    (g : ContinuousMultilinearMap 𝕜 E G') : ‖f.prod g‖ = max ‖f‖ ‖g‖ :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean:513]: Is there a reason you re-wrapped these lines?

Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean:513]: A `DecidableEq` hypothesis that came and went. Is there some guide style about this ? I'm honestly not sure how to arrange the lines of statements, except for the fact that I should try to keep both members of an equality (or `iff`) on the same line if they fit.

Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean:513]: In this particular case for example, I like my version better because the context is introduced on a line, then we have the statement of the theorem on a separate line. So I find it easier to read. 
However, I don't really care that much how statements are written, so if there's a different mathlib convention I'll adhere to it.

Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean:513]: I think you're reading this diff backwards; it was the *original* version that had the statement on a separate line to the contet (which I agree is a good thing)

Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean:513]: Perhaps what matters more here though is that you should try to avoid mixing style changes in the same PR as a refactor, as each gets in the way of reviewing the other.

File: Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean [hunk 2]
```diff
@@ -969,8 +915,7 @@ def compContinuousMultilinearMapL :
 
 variable {𝕜 G G'}
 
-/-- `ContinuousLinearMap.compContinuousMultilinearMap` as a bundled
-continuous linear equiv. -/
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean:973]: What happened to this docstring?

File: Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean]: I've gone ahead and reverted these changes; it makes this PR shorter, and it's easy to recover them in a future PR with `git revert` if you want them back.

Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean]: I think I went about this wrong, let me try to start afresh and make a new commit with a minimal diff.

Also, I was not sure whether I should label this as a "refactor" or "feat". I chose "feat" because the definition of "refactor" I found said that refactoring is improving code without creating new functionality, and here the code barely changes but a (very small) new functionality appears. But maybe I should have called it a "refactor" ? I'm not very comfortable with the terminology yet.

Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean]: I'm not sure that's necessary (and is probably a waste of your time), but you can do it if you really want to. Otherwise, I think we should just wait for @urkud to review :)

Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean]: It's done. It was pretty easy, as there's really very few changes.
My mistake was keeping the file that I had worked with and modified many times instead of inserting my changes into a copy of the mathlib file.

**Comment by urkud** [comment]
I golfed your new lemma and renamed it to match the existing `map_coord_zero`. I also generalized the last theorem to assume `[Normed*]` on the domain and `[Seminormed*]` on the codomain. Please review the lemmas that you moved to the bottom of the file to see if some of them can be generalized in a similar way.

P.S.: I don't know if it's possible to generalize the `CompleteSpace` instance but at least this isn't trivial.

**Comment by smorel394** [comment]
For the results at the end (after line 1228):
- `op_norm_zero_iff` is false if the `G` is only seminormed (if `G` has the trivial seminorm, every continuous multilinear map has operator norm `0`), so the operator seminorm is not a norm.
- `norm_ofSubsingleton_id` (and its variant with `nnorm`) are also false (if the seminorm of `G` is trivial for instance).
- `tsum_eval` cannot be true as written because the `tsum` is not unique. It might be possible to make it true by saying that the RHS is a sum of the LHS, but I don't know how useful that is.
- The last statement `bound_of_shell` is false if the `E i` are only seminormed. For example, if the seminorms on all `E i` are zero, then any multilinear map satisfies the condition of `bound_of_shell` (because that condition is empty), but the only continuous multilinear map is the zero map.
- I need to think more about the `CompleteSpace` instance.

File: Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean [hunk 3]
```diff
@@ -1286,3 +1218,162 @@ instance continuousConstSMul : ContinuousConstSMul R (ContinuousMultilinearMap 
...
+/-- Continuous multilinear maps themselves form a normed group with respect to
+    the operator norm. -/
+instance normedAddCommGroup : NormedAddCommGroup (ContinuousMultilinearMap 𝕜 E G) :=
+  NormedAddCommGroup.ofSeparation (fun f ↦ (op_norm_zero_iff f).mp)
+#align continuous_multilinear_map.normed_add_comm_group ContinuousMultilinearMap.normedAddCommGroup
+
+/-- An alias of `ContinuousMultilinearMap.normedAddCommGroup` with non-dependent types to help
+typeclass search. -/
+instance normedAddCommGroup' :
+    NormedAddCommGroup (ContinuousMultilinearMap 𝕜 (fun _ : ι => G) G') :=
```
Comment (urkud) [inline Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean:1251]: This instance doesn't need `G` to be Hausdorff.

File: Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean [hunk 4]
```diff
@@ -1286,3 +1218,162 @@ instance continuousConstSMul : ContinuousConstSMul R (ContinuousMultilinearMap 
...
+  exact squeeze_zero (fun n => norm_nonneg _) this b_lim
+
+end ContinuousMultilinearMap
+
+end Norm
+
+section Norm
+
+/-! Results that are only true if the source and target spaces are `NormedAddCommGroup`s
+(and not just `SeminormedAddCommGroup`s).-/
```
Comment (urkud) [inline Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean:1357]: Please fix this comment: the codomain doesn't need to be Hausdorff.

**Comment by urkud** [comment]
About `CompleteSpace`: I think that this is true in the case of seminormed codomain for the following reason.

**Lemma** (not sure if we have it). There exists a continuous linear section of the natural projection `π : G → SeparationQuotient G`.

*Proof*. Choose any linear section. It is continuous because its combination with `π` is continuous (it's identity) and `π` is inducing.

Then you can apply whatever proof you have about `NormedAddCommGroup`s to the separation quotient and lift using this map.

I suggest that we merge this PR as is (after you fix the last couple of minor issues, see my other comments) and postpone this proof to another PR.

bors d+

File: Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean [hunk 5]
```diff
@@ -91,25 +92,54 @@ We relate continuity of multilinear maps to the inequality `‖f m‖ ≤ C * 
...
+Note that we cannot drop the continuity assumption because `f (m : Unit → E) = f (m ())`,
+where the domain has zero norm and the codomain has a nonzero norm
+does not satisfy this condition. -/
+lemma norm_map_coord_zero (hf : Continuous f) {m : (i : ι) → E i} {i : ι} (hi : ‖m i‖ = 0) :
+    ‖f m‖ = 0 := by
+  classical
+  have : Nonempty ι := ⟨i⟩
+  set m' : 𝕜 → (i : ι) → E i := fun ε : 𝕜 ↦ update (ε • m) i (ε⁻¹ ^ (Fintype.card ι) • ((ε • m) i))
+  have A : Tendsto m' (𝓝[≠] 0) (𝓝 0) := by
+    rw [← update_eq_self i (0 : (i : ι) → E i)]
```
Comment (alreadydone) [inline Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean:111]: Should we take this opportunity to make these changes? Notice that the [`variable` block above](https://github.com/leanprover-community/mathlib4/pull/9700/files#diff-ae7e326549b303d39ecb126588c062ba023518dd4e0e052cdf019ba3b327217fR82) already uses `∀ i`. However, I noticed a lot of docstrings using `(i : ι) →` even though it's not valid Lean 3 syntax. So it seems mathport picked `∀ i` but people prefer `(i : ι) →`? It would be nice if we could agree on a uniform style ...
```suggestion
of `∀ i, E i` such that one of the `m i` has norm `0`, then `f m` has norm `0`.

Note that we cannot drop the continuity assumption because `f (m : Unit → E) = f (m ())`,
where the domain has zero norm and the codomain has a nonzero norm
does not satisfy this condition. -/
lemma norm_map_coord_zero (hf : Continuous f) {m : ∀ i, E i} {i : ι} (hi : ‖m i‖ = 0) :
    ‖f m‖ = 0 := by
  classical
  have : Nonempty ι := ⟨i⟩
  set m' : 𝕜 → ∀ i, E i := fun ε : 𝕜 ↦ update (ε • m) i (ε⁻¹ ^ (Fintype.card ι) • ((ε • m) i))
  have A : Tendsto m' (𝓝[≠] 0) (𝓝 0) := by
    rw [← update_eq_self i (0 : ∀ i, E i)]
```
(reposting since I didn't quote exactly the lines I intended to)

File: Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean (hunk 3 above)
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean:1251]: I made `G'` not necessarily Hausdordd and switched `G` and `G'`.

File: Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean (hunk 4 above)
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean:1357]: Fixed.

**Comment by smorel394** [comment]
> About `CompleteSpace`: I think that this is true in the case of seminormed codomain for the following reason.
> 
> **Lemma** (not sure if we have it). There exists a continuous linear section of the natural projection `π : G → SeparationQuotient G`.
> 
> _Proof_. Choose any linear section. It is continuous because its combination with `π` is continuous (it's identity) and `π` is inducing.
> 
> Then you can apply whatever proof you have about `NormedAddCommGroup`s to the separation quotient and lift using this map.
> 
> I suggest that we merge this PR as is (after you fix the last couple of minor issues, see my other comments) and postpone this proof to another PR.

Right, if you have a continuous linear section of the map from `G` to its separation, then I agree it can easily be deduced from the existing result for separated normed spaces.

File: Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean (hunk 5 above)
Comment (smorel394) [reply Mathlib/Analysis/NormedSpace/Multilinear/Basic.lean]: Committed.
For me ` (i : ι) →E i` feels more natural, but it is just a matter of getting used to `∀ i, E i`.
